US07692017B2
2-Chloro-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile
A solution of 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile (1.10 g, 3.74 mmol) in 30 mL of phosphorus oxytrichloride was heated in a sealed pressure tube at 90° C. for 2 hours. The solution was cooled to room temperature and allowed to stand overnight. The mixture was diluted with EtOAc, cooled to 0° C., and quenched by the careful addition of saturated NaHCO3 solution. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide the titled compound. ESI+ MS: 313.0 [M+H]+.

reactant | 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 3.74 mmol, 1.10 g | FC=1C=C(C=CC1)C1=C(C(NC2=CC=C(C=C12)OC)=O)C#N | C17H11FN2O2
reactant | phosphorus oxytrichloride | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloro-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile | ClC1=NC2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC | C17H10ClFN2O
